US07202364B2
A mixture of N-(1,6-dichloro-2-naphthyl)carbamic acid ethyl ester (750 mg, 2.64 mmol) and KOH (1.78 mg, 31.7 mmol) in ethanol (20 mL) is heated to reflux temperature under a N2 atmosphere for 12 hours. After cooling to room temperature, water (10 mL) is added. The resulting precipitation is removed by filtration to give 1,6-dichloro-2-aminonaphthalene as a solid.

reactant | N-(1,6-dichloro-2-naphthyl)carbamic acid ethyl ester | 2.64 mmol, 750 mg | C(C)OC(NC1=C(C2=CC=C(C=C2C=C1)Cl)Cl)=O | C13H11Cl2NO2
reactant | KOH | 31.7 mmol, 1.78 mg | [OH-].[K+]
reactant | water | 10 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1,6-dichloro-2-aminonaphthalene | ClC1=C(C=CC2=CC(=CC=C12)Cl)N | C10H7Cl2N
